US09079866B2
5-(4-Chloro-2-fluorophenyl)pyrimidin-2-amine
To a 500 mL round-bottomed flask were added 5-bromo-2-aminopyrimidine (4.0 g, 23 mmol), 4-chloro-2-fluorophenylboronic acid (3.9 g, 23 mmol), palladium(II)trifluoroacetate (240 mg, 0.72 mmol), and triphenylphoshine (373 mg, 1.40 mmol). The reaction vessel was fitted with a rubber septum, sparged with nitrogen and then charged with sparged toluene (75 mL), ethanol (75 mL), and a 2M solution of sodium carbonate (42 mL, 84 mmol) (solvents were sparged individually nitrogen gas for 30 minutes). The resulting mixture was stirred vigorously and heated at 50° Celsius. After 12 hours, the mixture was cooled to rt and treated with 100 mL of water. The precipitate was isolated via vacuum filtration, and the filtrate extracted with EtOAC. The EtOAc solution was dried, filtered and concentrated to dryness. The resultant solids were recrystallized from IPA (80 mL) to afford title compound (3.8 g, 74%). MS (ESI): mass calcd. for C10H7ClFN3, 223.03; m/z found, 224.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.44 (d, J=1.4, 2H), 7.59 (m, 1H), 7.54 (dd, J=10.7, 2.1, 1H), 7.37 (dd, J=8.3, 2.1, 1H), 6.94 (s, 2H).

reactant | 5-bromo-2-aminopyrimidine | 23 mmol, 4.0 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | 4-chloro-2-fluorophenylboronic acid | 23 mmol, 3.9 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | sodium carbonate | 84 mmol, 42 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II)trifluoroacetate | 0.72 mmol, 240 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
catalyst | triphenylphoshine | 1.40 mmol, 373 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 100 mL | O | H2O
product | 5-(4-Chloro-2-fluorophenyl)pyrimidin-2-amine | 3.8 g, 74% | ClC1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C10H7ClFN3
